US07915404B2
3-(4-Fluoro-phenyl)-2-isopropyl-7,8-dihydro-2H-1,2,6-triaza-azulene-6-carboxylic acid benzyl ester
A solution of {2-[4-[1,3]dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester (0.5 g, 1.1 mmol) in TFA (10 mL) and water (2 mL) was heated at reflux for 2 h. The mixture was concentrated and the residue was purified by FCC to provide the title compound. HPLC: RT=11.00 min. MS (ESI): mass calcd. for C24H24FN3O2, 405.19; m/z found, 406.3 [M+H]+.

reactant | {2-[4-[1,3]dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester | 1.1 mmol, 0.5 g | C(C1=CC=CC=C1)OC(NCCC1=NN(C(=C1CC1OCCO1)C1=CC=C(C=C1)F)C(C)C)=O | C26H30FN3O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 2 mL | O | H2O
product | 3-(4-Fluoro-phenyl)-2-isopropyl-7,8-dihydro-2H-1,2,6-triaza-azulene-6-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C=CC2=C(N(N=C2CC1)C(C)C)C1=CC=C(C=C1)F | C24H24FN3O2
